US05057614
A solution of 800 mg of 3-(1-methyl-3-indolyl)-4-(1-methyl-2-pyrrolyl)furan-2,5-dione in 6 ml of DMF and 50 ml of 33% aqueous ammonia was heated to 130° C. for 3 hours. The precipitate was filtered off and dried to yield 400 mg of 3-(1-methyl-3-indolyl)-4-(1-methyl-2-pyrrolyl)-1H-pyrrole-2,5-dione, m.p. 248°-250° C.

reactant | 3-(1-methyl-3-indolyl)-4-(1-methyl-2-pyrrolyl)furan-2,5-dione | 800 mg | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C=1N(C=CC1)C)=O)=O | C18H14N2O3
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 50 ml | N | H3N
product | 3-(1-methyl-3-indolyl)-4-(1-methyl-2-pyrrolyl)-1H-pyrrole-2,5-dione | 400 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1N(C=CC1)C)=O)=O | C18H15N3O2
